US06093744
3,5-Bis(1-methylethyl)-4-(sulfamoyloxy)benzoic acid methyl ester
N-Chlorosulfonyl isocyanate (2.12 mL, 24.3 mmol) was added slowly to a warm solution of 3,5-diisopropyl-4-hydroxy-benzoic acid methyl ester (5.47 g, 23.1 mmol) in 300 mL toluene. The resulting solution was heated to reflux for 6 hours and then cooled to room temperature and concentrated to give a brown oil. Quenched with 200 g ice and extracted with ethyl acetate. The organic solution was dried over magnesium sulfate, filtered, and concentrated to give a tan solid. Chromatography on silica gel (20% ethyl acetate/hexanes) gave 3.58 g of the title compound as an off-white solid.

reactant | N-Chlorosulfonyl isocyanate | 24.3 mmol, 2.12 mL | C(=NS(=O)(=O)Cl)=O | CClNO3S
reactant | 3,5-diisopropyl-4-hydroxy-benzoic acid methyl ester | 23.1 mmol, 5.47 g | COC(C1=CC(=C(C(=C1)C(C)C)O)C(C)C)=O | C14H20O3
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 3,5-Bis(1-methylethyl)-4-(sulfamoyloxy)benzoic acid methyl ester | 3.58 g | COC(C1=CC(=C(C(=C1)C(C)C)OS(N)(=O)=O)C(C)C)=O | C14H21NO5S
